US06627651B1
To 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline (8.1 g), 4-methylphenylboric acid (3.9 g), a 2 M aqueous solution of potassium carbonate (40 ml) and ethanol (40 ml) was added toluene (100 ml), and the resulting mixture was stirred at room temperature under an argon atmosphere for 30 minutes. Thereto was added tetrakis(triphenylphosphine)palladium (1.26 g), and the resulting mixture was refluxed under an argon atmosphere for 4.5 hours. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and an aqueous saturated solution of sodium chloride, and was then dried with anhydrous magnesium sulfate. After evaporation of the solvent under reduced pressure, methanol (200 ml) and a 2 M aqueous solution of potassium carbonate (50 ml) were added to the residue, and the resulting mixture was stirred overnight at room temperature. After concentration, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water and was then back-extracted with 1 N hydrochloric acid. The aqueous layer was made alkaline with a 1 N aqueous solution of sodium hydroxide, was then saturated with sodium chloride and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain 7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinoline (4.2 g) as colorless crystals.

reactant | 7-bromo-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 8.1 g | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | 4-methylphenylboric acid | 3.9 g | CC1=CC=C(C=C1)OB(O)O | C7H9BO3
reactant | potassium carbonate | 40 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 40 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 1.26 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 7-(4-methylphenyl)-1,2,3,4-tetrahydroisoquinoline | 4.2 g | CC1=CC=C(C=C1)C1=CC=C2CCNCC2=C1 | C16H17N
